US06638919B2
L-Alanine n-pentyl ester hydrochloride salt
This was synthesised according to Standard Procedure 1, using pentanol (36.3 ml, 0.337 mol), thionyl chloride (4.92 ml, 67.4 mmol) and L-Alanine (3.0 g, 33.7 mmol). The product was isolated as a white solid pure product (4.86 g, 73.7%).

reactant | pentanol | 0.337 mol, 36.3 ml | C(CCCC)O | C5H12O
reactant | thionyl chloride | 67.4 mmol, 4.92 ml | S(=O)(Cl)Cl | Cl2OS
reactant | L-Alanine | 33.7 mmol, 3.0 g | N[C@@H](C)C(=O)O | C3H7NO2
product | L-Alanine n-pentyl ester hydrochloride salt | 4.86 g, 73.7% | Cl.C(CCCC)OC([C@@H](N)C)=O | InChI=1S/C8H17NO2.ClH/c1-3-4-5-6-11-8(10)7(2)9;/h7H,3-6,9H2,1-2H3;1H/t7-;/m0./s1
